US07365095B2
To a solution of 2-bromo-4-fluoro-6-(prop-1-enyl)phenol, prepared in Example 37, step 4 (4.5 g, 0.019 mol) and (S)-toluene-4-sulfonic acid 2-hydroxy-but-3-enyl ester (7.07 g, 0.028 mol) and triphenylphosphine (11.22 g, 0.043 mol) in anhydrous THF (200 mL) at room temperature was added diethyl azodicarboxylate (7.7 mL, 0.047 mol) then the reaction mixture stirred at room temperature for 19 hours. The reaction was quenched by the addition of water (100 mL), stirred vigorously for 5 minutes and the resulting oily suspension extracted with methylene chloride (300 mL). The organic phase was separated, washed with water (2×100 mL), and saturated brine (100 mL), dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to afford a yellow oil. Purification by flash chromatography using a solvent gradient of 0 to 20% ethyl acetate in hexane gave 7.26 g (82%) of (R)-2-[2-bromo-4-fluoro-6-(prop-1-enyl)phenoxy]but-3-enyl 4-methylbenzenesulfonate as a colorless oil. MS (ES) m/z 472.1 ([M+NH4]+).

reactant | 2-bromo-4-fluoro-6-(prop-1-enyl)phenol | BrC1=C(C(=CC(=C1)F)C=CC)O | C9H8BrFO
reactant | (S)-toluene-4-sulfonic acid 2-hydroxy-but-3-enyl ester | 0.028 mol, 7.07 g | O[C@H](COS(=O)(=O)C1=CC=C(C=C1)C)C=C | C11H14O4S
reactant | triphenylphosphine | 0.043 mol, 11.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.047 mol, 7.7 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (R)-2-[2-bromo-4-fluoro-6-(prop-1-enyl)phenoxy]but-3-enyl 4-methylbenzenesulfonate | 7.26 g, 82% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H](C=C)OC1=C(C=C(C=C1C=CC)F)Br | C20H20BrFO4S
